US09056859B2
(3-Bromo-4-cyanophenyl)acetic acid was prepared in a similar fashion to the previously described synthesis of (4-cyano-2-fluoro-5-methoxyphenyl)acetic acid starting from di-tert-butyl malonate and 3-bromo-4-fluorobenzonitrile. LC-MS (IE, m/z): 239, 241 [M+1]+.

reactant | (4-cyano-2-fluoro-5-methoxyphenyl)acetic acid | C(#N)C1=CC(=C(C=C1OC)CC(=O)O)F | C10H8FNO3
reactant | di-tert-butyl malonate | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | 3-bromo-4-fluorobenzonitrile | BrC=1C=C(C#N)C=CC1F | C7H3BrFN
product | (3-Bromo-4-cyanophenyl)acetic acid | BrC=1C=C(C=CC1C#N)CC(=O)O | C9H6BrNO2
